US08754103B2
A sealable flask is charged with 2-(benzyloxymethyl)-3,6-dichloropyridine as prepated in Step 2 (950 mg, 3.5 mmol), hydrazine hydrate (1 mL) is added, and the reaction is heated to 120° C. overnight. After cooling the solids are collected by filtration to provide 2-(benzyloxymethyl)-3-chloro-6-hydrazinylpyridine.

reactant | 2-(benzyloxymethyl)-3,6-dichloropyridine | C(C1=CC=CC=C1)OCC1=NC(=CC=C1Cl)Cl | C13H11Cl2NO
reactant | hydrazine hydrate | 1 mL | O.NN
product | 2-(benzyloxymethyl)-3-chloro-6-hydrazinylpyridine | C(C1=CC=CC=C1)OCC1=NC(=CC=C1Cl)NN | C13H14ClN3O
